US08097708B2
Synthesis of 1-[1-(2-methoxyphenyl)ethyl]pyrrolidin-3-amine
3-t-Butoxycarbonylaminopyrrolidine (560 mg) was dissolved in methanol (5 ml), the solution was added with acetic acid (170 μl), 2-methoxyacetophenone (140 μl) and sodium cyanoborohydride (45 mg), and the mixture was stirred at 50° C. for 20 hours. The reaction mixture was added with 5 N hydrochloric acid (10 ml), the mixture was stirred at room temperature for 2 hours, and then made basic with potassium carbonate, and methanol was evaporated under reduced pressure. The reaction mixture was added with chloroform, the layers were separated, the organic layer was dried over anhydrous magnesium sulfate and filtered, and then the filtrate was concentrated under reduced pressure to obtain the title compound (83 mg).

reactant | 3-t-Butoxycarbonylaminopyrrolidine | 560 mg | C(C)(C)(C)OC(=O)NC1CNCC1 | C9H18N2O2
reactant | 2-methoxyacetophenone | 140 μl | COCC(=O)C1=CC=CC=C1 | C9H10O2
reactant | sodium cyanoborohydride | 45 mg | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | 5 N, 10 ml | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 5 ml | CO | CH4O
solvent | acetic acid | 170 μl | C(C)(=O)O | C2H4O2
product | 1-[1-(2-methoxyphenyl)ethyl]pyrrolidin-3-amine | 83 mg | COC1=C(C=CC=C1)C(C)N1CC(CC1)N | C13H20N2O
